US04659706
A mixture of 7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride (4.3 g, 0.02 m) and sodium acetate (3.3 g, 0.04 m) in acetic anhydride (13 ml) was refluxed and stirred for 16 hours, concentrated in vacuo and partitioned between methylene chloride and water. The organic phase was dried with magnesium sulfate, filtered and concentrated in vacuo to give 3-acetyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine, m.p. 89°-90°.

reactant | 7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 4.3 g | Cl.COC1=CC2=C(CCNCC2)C=C1
reactant | sodium acetate | 3.3 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)OC | C13H17NO2
